US06284755B1
Step D: Preparation of 3-ethyl-1-(2-hydroxy-ethyl)-3-(3-hydroxy-phenyl)-azepan-2-one
To a solution of 3-ethyl-1-(2-hydroxy-ethyl)-3-(3-benzyloxy-phenyl)-azepan-2-one, as described above in Step C, (0.270 g, 0.735 mmol) in MeOH (15 mL) was added 10% Pd on C (0.06 g), and the mixture was hydrogenated under a H2 balloon at ambient temperature for 16 h. The reaction mixture was filtered, and the filtrate concentrated to dryness to give the title compound.

reactant | 3-ethyl-1-(2-hydroxy-ethyl)-3-(3-benzyloxy-phenyl)-azepan-2-one | C(C)C1(C(N(CCCC1)CCO)=O)C1=CC(=CC=C1)OCC1=CC=CC=C1 | C23H29NO3
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | 3-ethyl-1-(2-hydroxy-ethyl)-3-(3-hydroxy-phenyl)-azepan-2-one | C(C)C1(C(N(CCCC1)CCO)=O)C1=CC(=CC=C1)O | C16H23NO3
